US05710166
β-[[3-[4-(aminoiminomethyl)benzyl]aminobenzoyl]amino]-3-pyridinepropanoic acid
Ethyl β-[[3-[4-(aminoiminomethyl)benzyl]aminobenzoyl]amino]3-pyridine-propanoate (0.35 g; 0.8 mmoles) was treated with 1N lithium hydroxide and methanol (1:1; 20 ml) for 5 min. Methanol was removed under reduced pressure and the residue was purified by HPLC using acetonitrile/water/trifluoroacetic acid system. The desired fractions were collected and lyophilized to give 290 mg of white material. FAB-MS: MH+ =418.0.

reactant | Ethyl β-[[3-[4-(aminoiminomethyl)benzyl]aminobenzoyl]amino]3-pyridine-propanoate | 0.8 mmoles, 0.35 g | NN=CC1=CC=C(CNC=2C=C(C(=O)NC(CC(=O)OCC)C=3C=NC=CC3)C=CC2)C=C1 | C25H27N5O3
reactant | lithium hydroxide | 1N | [OH-].[Li+]
solvent | methanol | 20 ml | CO | CH4O
product | β-[[3-[4-(aminoiminomethyl)benzyl]aminobenzoyl]amino]-3-pyridinepropanoic acid | 290 mg | NN=CC1=CC=C(CNC=2C=C(C(=O)NC(CC(=O)O)C=3C=NC=CC3)C=CC2)C=C1 | C23H23N5O3
